US03969506
A charge of 26 kgs. toluene, 2.5 kgs. 2-methylmercaptoimidazoline hydroiodide, 2.4 kgs. N-(p-fluorobenzyl)isatoic anhydride and 1.55 kgs. powdered anhydrous sodium carbonate is refluxed for 18 - 20 hours in a reaction vessel which is vented to a caustic gas washing tower. Any water formed during the reaction is collected in a Dean-Stark separator. The reaction is cooled to 20°C. and 10 kgs. water added. The mixture is stirred for about 30 minutes and the solids collected, washed several times with 2 kg. portions of water, and three times with 0.8 kg. toluene. The solids are then dried at reduced pressure (about 55°C.) to obtain a crude product, m.p. 196°-198°C. The crude is dissolved at 50°C. in a solution of 14 kgs. chloroform and 4 kgs. ethanol and treated in solution with 0.1 kg. decoloring charcoal for about 10 minutes. The charcoal is removed by filtration through a celite bed and solids reprecipitated by concentrating the filtrate to a volume of about 8 liters. This concentrate is cooled to 0°-5°C., the solids collected by filtration, washed with cold ethanol and then diethyl ether, and dried at reduced pressure to obtain 10-(4'-fluorobenzyl)-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one, m.p. 197°-198°C.

reactant | 2-methylmercaptoimidazoline hydroiodide | I.CSC=1NCCN1
reactant | N-(p-fluorobenzyl)isatoic anhydride | FC1=CC=C(CN2C=3C(C(=O)OC2=O)=CC=CC3)C=C1 | C15H10FNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-(4'-fluorobenzyl)-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one | FC1=CC=C(CN2C=3N(C(C4=CC=CC=C24)=O)CCN3)C=C1 | C17H14FN3O
